US05935958
Crude 7-(4'-nitrophenyloxy)-4-chromanone (1.9 g) in EtOH (150 mL) was reduced with NaBH4 (250 mg) at room temperature overnight. The crude product was purified through a column of silica gel (EtOAc:CH2Cl2, 2:8) to give pure 7-(4'-nitrophenyloxy)-4-chromanol (550 mg). This compound (550 mg) was converted to the chloride with thionyl chloride (0.28 g) in CH2Cl2 (30 mL) at 0° C. for 1 hour and then at room temperature for 3 hours. Work-up yielded crude 4-chloro-7-(4'-nitrophenyloxy)-chroman (500 mg). This was heated with N-cyclohexylpiperazine (0.9 g) at 130° C. for one hour. The mixture was then diluted with water (35 mL), made basic with K2CO3 and extracted with EtOAc. The residue from evaporation of the dried organic layer was purified through a column of TLC-grade silica gel (35 g). The desired product was recrystallized rom acetonitrile, m.p. 67-68° C.

reactant | 7-(4'-nitrophenyloxy)-4-chromanone | 1.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C2C(CCOC2=C1)=O | C15H11NO5
reactant | NaBH4 | 250 mg | [BH4-].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | 7-(4'-nitrophenyloxy)-4-chromanol | 550 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C2C(CCOC2=C1)O | C15H13NO5
